US07005526B2
To a mixture of 1.98 g (10.2 mmol) (4-allyloxy-2-methyl-phenyl)-methanethiol and 2.72 g (10.2 mmol) toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester in 25 ml N,N-dimethylformamide was added under argon at −50° C. 515 mg (20.4 mmol) sodium hydride. The mixture was allowed to warm up to room temperature and was stirred under argon for 12 hours. 80% of the DMF was stilled off in vacuo, ethyl acetate and water given to the mixture. The aqueous phase was reextracted with ethyl acetate and the combined organic extracts dried and evaporated to yield 2.8 g of 1-[2-(4-allyloxy-2-methyl-benzylsulfanyl)ethyl]-1H-[1,2,3]triazole as brown oil. The raw material (73% purity) was used without further purification.

reactant | (4-allyloxy-2-methyl-phenyl)-methanethiol | 10.2 mmol, 1.98 g | C(C=C)OC1=CC(=C(C=C1)CS)C | C11H14OS
reactant | toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester | 10.2 mmol, 2.72 g | N1(N=NC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C11H13N3O3S
reactant | sodium hydride | 20.4 mmol, 515 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-[2-(4-allyloxy-2-methyl-benzylsulfanyl)ethyl]-1H-[1,2,3]triazole | 2.8 g | C(C=C)OC1=CC(=C(CSCCN2N=NC=C2)C=C1)C | C15H19N3OS
